US06479550B1
2-{2-[1-(4-Chloro-phenyl)-ethylideneaminooxymethyl]-phenyl}-methylthioimino-acetic Acid Methyl Ester
To a solution of 2 ml triethylamine in 15 ml chloroform saturated with methanethiol are added 5.15 g (10 mmol) 2-{2-[1-(4-chloro-phenyl)-ethylideneaminooxymethyl]-phenyl}-tosyloxyimino-acetic acid methyl ester. The mixture was stirred at room temperature for 48 hours. After evaporation the residue is purified by silicagel chromatography (ethyl acetate 1, hexanes 5) to give—after elution of 2-[1-(4-chloro-phenyl)-ethylideneaminooxymethyl]-benzonitrile as by-product—1.0 g (28%) of the 2-{2-[1-(4-chloro-phenyl)-ethylideneamino-oxymethyl]-phenyl}-methylthioimino-acetic acid methyl ester. Melting point of 112-113° C.

reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | methanethiol | CS | CH4S
reactant | 2-{2-[1-(4-chloro-phenyl)-ethylideneaminooxymethyl]-phenyl}-tosyloxyimino-acetic acid methyl ester | 10 mmol, 5.15 g | COC(C(C1=C(C=CC=C1)C(C1=CC=C(C=C1)Cl)ON=CC)=NOS(=O)(=O)C1=CC=C(C)C=C1)=O | C25H23ClN2O6S
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-{2-[1-(4-Chloro-phenyl)-ethylideneaminooxymethyl]-phenyl}-methylthioimino-acetic Acid Methyl Ester | COC(C(C1=C(C=CC=C1)C(C1=CC=C(C=C1)Cl)ON=CC)=NSC)=O | C19H19ClN2O3S
